US07737152B2
2-Chloro-6-(indanone-4-oxy)-pyrazine, CJS 510(A)
Using Method DD with 2,6-dichloropyrazine (200 mg, 1.34 mmol) and 4-hydroxyindanone (219 mg, 1.49 mmol), and crystallisation in AcOEt, the title compound was obtained (314 mg). Yield: 90%. 1H NMR (250 MHz, DMSO-d6) δ 2.70 (t, 2H, H3, J=5.7 Hz), 2.94 (t, 2H, H2, J=5.7 Hz), 7.55-7.64 (m, 3H, Harom), 8.57 (s, 1H, HPz 5), 8.66 (s, 1H, HPz 3). m/z: 261.0 [(M+H)+, calcd for C13H9ClN2O2 260.0].

reactant | 2,6-dichloropyrazine | 1.34 mmol, 200 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-hydroxyindanone | 1.49 mmol, 219 mg | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Chloro-6-(indanone-4-oxy)-pyrazine | Yield: 90% | ClC1=NC(=CN=C1)OC=1C=2CCC(C2C=CC1)=O | C13H9ClN2O2
